US07855294B2
1) Tert-butyl (3R*,4R*)-3-hydroxy-4-o-tolylpiperidine-1-carboxylate
In a nitrogen atmosphere, 0.28 mL of di-tert-butyl dicarbonate was added to chloroform (4.0 mL) solution of 190 mg of (3R*,4R*)-4-o-tolyl-piperidin-3-ol obtained in Production Example 12-3, and stirred at room temperature for 15 hours. Aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, extracted with chloroform, and the chloroform layer was washed with saturated saline water and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=75/25) to obtain 352 mg of the entitled compound as a colorless oily substance.

reactant | di-tert-butyl dicarbonate | 0.28 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3R*,4R*)-4-o-tolyl-piperidin-3-ol | 190 mg | C1(=C(C=CC=C1)[C@@H]1[C@H](CNCC1)O)C | C12H17NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 4.0 mL | C(Cl)(Cl)Cl | CHCl3
product | Tert-butyl (3R*,4R*)-3-hydroxy-4-o-tolylpiperidine-1-carboxylate | 352 mg | O[C@H]1CN(CC[C@@H]1C1=C(C=CC=C1)C)C(=O)OC(C)(C)C | C17H25NO3
